US07462634B2
iii. Preparation of 6-({[tert-butyl(dimethyl)silyl]oxy}methyl)pyridin-2-amine
To a solution of dichloromethane (15 mL) was added (6-aminopyridin-2-yl)methanol (0.72 g, 5.8 mmol), tert-butyl(chloro)dimethylsilane (1.05 g, 6.95 mmol) and triethylamine (1.05 mL, 7.53 mmol). The mixture was stirred for 24 h and washed with saturated sodium bicarbonate (2×30 mL) and aqueous hydrochloric acid (2×30 mL, 0.1 N). The organic layer was dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. Purification was done using silica gel chromatography eluting with hexane: ethyl acetate (1:1) and fractions were combined and concentrated to afford the titled product as a white solid (1.06 g, 70%). HPLC: Rt 2.58 min. (96.5% area). 1H NMR (400 MHz, CDCl3), δ: 7.34 (t, J=7.6 Hz, 1H), 6.75 (d, J=7.6 Hz, 1H), 6.25 (d, J=8.1 Hz, 1H), 4.54 (s, 2H), 4.27 (bs, 2H), 0.84 (s, 9H), 0.11 (s, 6H); LRMS (ESI): m/z: 239.2.

reactant | (6-aminopyridin-2-yl)methanol | 5.8 mmol, 0.72 g | NC1=CC=CC(=N1)CO | C6H8N2O
reactant | tert-butyl(chloro)dimethylsilane | 6.95 mmol, 1.05 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | triethylamine | 7.53 mmol, 1.05 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 6-({[tert-butyl(dimethyl)silyl]oxy}methyl)pyridin-2-amine | 1.06 g, 70% | [Si](C)(C)(C(C)(C)C)OCC1=CC=CC(=N1)N | C12H22N2OSi
